US07247734B2
Synthesis of 4-[4-(4-Bromo-phenyl)-1H-pyrazol-3-yl]-6-chloro-benzene-1,3-diol
This compounds was synthesised in the same manner as described above. 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one (0.1 g, 0.28 mmol), hydrazine hydrate (4 ml), ethanol (10 ml). 4-[4-(4-Bromo-phenyl)-1H-pyrazol-3-yl]-6-chloro-benzene-1,3-diol precipitated out on quenching as a white solid (0.073 g, 71.2%); Rf 0.34 Cf SM 0.55 ethyl acetate/hexane (75/25).

reactant | 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one | 0.28 mmol, 0.1 g | BrC1=CC=C(C=C1)C1=COC2=CC(=C(C=C2C1=O)Cl)O | C15H8BrClO3
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[4-(4-Bromo-phenyl)-1H-pyrazol-3-yl]-6-chloro-benzene-1,3-diol | BrC1=CC=C(C=C1)C=1C(=NNC1)C1=C(C=C(C(=C1)Cl)O)O | C15H10BrClN2O2
